US04983723
(1) Synthesis of 1-[4-(t-Butyldimethylsilyl)oxy-2,6,6-Trimethylcyclohex-1-enyl]Oct-1-en-3-one
The entitled compound was prepared from 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1enyl]but-3-en-2-one and n-butyl iodide in the same manner as described in Example 2-(1).

reactant | 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1enyl]but-3-en-2-one | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C19H34O2Si
reactant | n-butyl iodide | C(CCC)I | C4H9I
product | 1-[4-(t-Butyldimethylsilyl)oxy-2,6,6-Trimethylcyclohex-1-enyl]Oct-1-en-3-one | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(CCCCC)=O)C | C23H42O2Si
